US04456757
In 100 ml of ethanol were added 2.77 g of 1-(5-isoquinolinesulfonyl)piperazine, i.e., Compound (35), 1.66 g of anhydrous potassium carbonate and 5.45 g of ethyl bromide, and the reaction was carried out at an external temperature of 70° C. for 24 hours. After the reaction solution was filtered, the filtrate was condensed and the residue was dissolved in 50 ml of chloroform, and the solution was extracted twice with a 2N aqueous hydrochloric acid solution. The aqueous hydrochloric acid layer was rendered alkaline, extracted twice with 50 ml of chloroform, and the chloroform layer extracted was washed with water and dried with anhydrous magnesium sulfate. After the chloroform was distilled therefrom, the residue obtained was subjected to a silica gel column chromatography (silica gel: 100 g; solvent: 2% methanol-chloroform) to give 2.26 g of 1-(5-isoquinolinesulfonyl)-4-ethylpiperazine, i.e., Compound (42) in a yield of 74%.

reactant | 1-(5-isoquinolinesulfonyl)piperazine | 2.77 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCNCC1 | C13H15N3O2S
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 5.45 g | C(C)Br | C2H5Br
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(5-isoquinolinesulfonyl)-4-ethylpiperazine | 2.26 g, yield of 74% | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CCN(CC1)CC | C15H19N3O2S
